US04636563
8-Fluoro-2,3,4,5-tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido[4-3-b]indole
The title compound was prepared following the procedure of Example 2 with the exception that 2-vinylquinoline was used instead of 2-vinylpyridine. The product was converted to the dihydrochloride salt; mp 192°-194° C.

reactant | 2-vinylquinoline | C(=C)C1=NC2=CC=CC=C2C=C1 | C11H9N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 8-Fluoro-2,3,4,5-tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido[4-3-b]indole | FC1=CC=2C3=C(NC2C=C1)CCN(C3)CCC3=NC1=CC=CC=C1C=C3 | C22H20FN3
